* Testbench for modamp operational amplifier
* This is a SPICE netlist that Xyce can simulate

* Include the Verilog-AMS module (if compiled to SPICE)
* Or use SPICE subcircuit definition

* Power supplies
VDD vdd 0 DC 15V
VSS vss 0 DC -15V

* Input signals
VIN1 inp 0 SIN(0 1V 1kHz)
VIN2 inn 0 DC 0V

* Load
RL outp 0 10k

* Instantiate the amplifier
* X1 inp inn outp modamp

* Analysis
.TRAN 0.01ms 5ms
.PRINT TRAN V(inp) V(inn) V(outp)

.END
