* Simple RC Circuit Test for Xyce
* Basic circuit to verify Xyce is working

* Voltage source
VIN in 0 SIN(0 5 1k)

* RC circuit
R1 in out 1k
C1 out 0 1u

* Transient analysis
.TRAN 1u 5m
.PRINT TRAN V(in) V(out)

.END
